US04105681
10 g. of 2-butyryl-3,5-dimethyl-phenol are dissolved in 100 ml. of glacial acetic acid. After the addition of 3 drops of perchloric acid, the solution is hydrogenated under normal conditions in the presence of 0.5 g. of platinum oxide. After the uptake of 3.0 l. of hydrogen, the hydrogenation is stopped. The catalyst is filtered off. The filtrate is extracted with ether. The ether extract is washed with water to neutral reaction, dried over sodium sulfate and evaporated. There is obtained 2-butyl-3,5-dimethyl-phenol, which melts at 65°-67° C. after absorption on silica gel, using methylene chloride/hexane 1:1 parts by volume as the eluent.

reactant | 2-butyryl-3,5-dimethyl-phenol | C(CCC)(=O)C1=C(C=C(C=C1C)C)O | C12H16O2
reactant | hydrogen | [H][H] | H2
catalyst | perchloric acid | 3 drops | Cl(=O)(=O)(=O)O | ClHO4
catalyst | platinum oxide | [Pt]=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-butyl-3,5-dimethyl-phenol | C(CCC)C1=C(C=C(C=C1C)C)O | C12H18O
